US04275067
(5R)-7-Oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene (ca 2.5 mmole) in tetrahydrofuran (20 ml) was prepared from clavulanic acid (3.0 mmole) as described in Example 1.

reactant | clavulanic acid | 3.0 mmole | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (5R)-7-Oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene | ca 2.5 mmole | O=C1C[C@H]2OC(=CN12)C=C | C7H7NO2
